US08217043B2
d) 5-Fluoro-1-[(4-fluoro-benzyl)-(2-methoxycarbonyl-acetyl)-amino]-1H-indole-2-carboxylic acid ethyl ester
Prepared according to the acylation condition used in Example 2 step f) from 5-fluoro-1-(4-fluoro-benzylamino)-1H-indole-2-carboxylic acid ethyl ester and chlorocarbonyl-acetic acid methyl ester (1.2 eq.). 1H NMR (CDCl3, δ in ppm): 7.3-6.77 (m, 8H), 4.82 (dd, 2H), 4.17 (m, 2H), 3.54 (s, 3H), 3.26 (s, 2H), 1.31 (t, 3H, J=7.1 Hz).

reactant | 5-fluoro-1-(4-fluoro-benzylamino)-1H-indole-2-carboxylic acid ethyl ester | C(C)OC(=O)C=1N(C2=CC=C(C=C2C1)F)NCC1=CC=C(C=C1)F | C18H16F2N2O2
reactant | chlorocarbonyl-acetic acid methyl ester | 1.2 eq. | COC(CC(=O)Cl)=O | C4H5ClO3
product | 5-Fluoro-1-[(4-fluoro-benzyl)-(2-methoxycarbonyl-acetyl)-amino]-1H-indole-2-carboxylic acid ethyl ester | C(C)OC(=O)C=1N(C2=CC=C(C=C2C1)F)N(C(CC(=O)OC)=O)CC1=CC=C(C=C1)F | C22H20F2N2O5
